US04119710
1-(4'-Amino-3'-trifluoromethyl-phenyl)-2-tert.butylamino ethanol by method C
0.45 gm of 1-(4'-amino-3'-trifluoromethyl-phenyl)-2-(N-benzyl-N-tert.butylamino)-ethanol were dissolved in 10 ml of methanol and 1.4 ml of 1N hydrochloric acid, and the solution was hydrogenated in a hydrogenation vessel in the presence of 50 mgm of palladium/coal-catalyst (10%) until 1 mol of hydrogen had been absorbed. The catalyst was removed by filtration, the filtrate was evaporated in vacuo, and the residue was distributed between ethyl acetate and 2N ammonia. The organic layer was washed with water, dried and again evaporated in vacuo. The residue was crystallized from ethanol/water. M.p. 145°-147° C.

reactant | 1-(4'-amino-3'-trifluoromethyl-phenyl)-2-(N-benzyl-N-tert.butylamino)-ethanol | 0.45 gm | NC1=C(C=C(C=C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)O)C(F)(F)F | C20H25F3N2O
reactant | hydrogen | 1 mol | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 1.4 ml | Cl | ClH
catalyst | palladium | [Pd] | Pd
product | 1-(4'-Amino-3'-trifluoromethyl-phenyl)-2-tert.butylamino ethanol | NC1=C(C=C(C=C1)C(CNC(C)(C)C)O)C(F)(F)F | C13H19F3N2O
